Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.49447838368
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])[H:19].[H:20],4.55985390188
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.333318294826
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],-3.9679134086
[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-5.10240605275
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.8061815634
[H:1][C:2]1[O:3][C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]([C:5]([H:6])[H:7])=[O:8])=[C:9]([H:10])[H:11],-0.531853191329
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],5.33190084809
[C:1]#[C:2][C:3]([H:4])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.28757587877
[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.33397792004
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.14607637735
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.315065924740001
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10]>>[C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10].[H:1][C:2]#[C:3],4.840426546040001
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],-5.9897651967
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])[H:8].[H:1][C:2]([O:3][C:4][H:5])[O:9][C:10]([H:11])([H:12])[H:13],7.472655664299999
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.90357990501
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.6479981844
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.81820521747
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8],4.89965322876
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.2277051938300003
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-3.87376196629
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11],-2.9975965131200004
[H:3].[O:1]=[C:2]=[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],-1.83123978209
[C:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3]([O:4][H:5])=[C:6]([H:7])[H:8],3.79363251432
[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.416168780389999
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.96839694505
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([O:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-5.2140330033
[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.780384179469
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-7.68071696353
